US07432260B2
[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-piperazin-1-yl-phenyl)-amine [6].
To a solution of 1-(4-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-piperazin-1-yl)-ethanone (0.67 g, 1.64 mmol) in EtOH (3 mL) was added 2 M aq HCl (25 mL) in a steady stream. The mixture was heated at reflux for 1 h, cooled, and basified by addition of solid Na2CO3. The product was extracted with EtOAc. The combined organics were washed with brine, dried on Na2SO4, filtered, and evaporated to afford the title compound (580 mg) as a yellow solid. 1H-NMR (CDCl3) TM: 2.62 (s, 3H, CH3), 2.63 (s, 3H, CH3), 2.99 (m, 4H, CH2), 3.06 (m, 4H, CH2), 6.81 (d, 1H, J=5.4 Hz, pyrimidinyl-H), 6.89 (m, 3H, Ph-H, NH), 7.44 (m, 2H, Ph-H), 8.31 (d, 1H, J=5.4 Hz, pyrimidinyl-H). MS (ESI+) m/z 367 (C19H22N6S requires 366.5).

reactant | 1-(4-{4-[4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-piperazin-1-yl)-ethanone | 1.64 mmol, 0.67 g | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)C(C)=O | C21H24N6OS
reactant | HCl | 2 M, 25 mL | Cl | ClH
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | EtOH | 3 mL | CCO | C2H6O
product | [4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-piperazin-1-yl-phenyl)-amine | 580 mg | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCNCC1 | C19H22N6S
